US04622401
2-(3-Amino-5-methyl-2-pyrazolin-1-yl)benzothiazole
A mixture of 20.1 g. of crotononitrile, 80 ml. of absolute ethanol, 4.87 g. of 2-hydrazinobenzothiazole and 1.5 ml. of 50% methanolic choline is refluxed for 16 hours. The solvent is removed in vacuo and water is added. The separated solid is collected by filtration, dissolved in dichloromethane, and passed through a short column of hydrous magnesium silicate. The effluent is refluxed with the gradual addition of hexane to give a crystalline product. The crystallization step is repeated to give 0.5 g. of the product of the Example as off-white plates, m.p. 212°-215° C.

reactant | crotononitrile | C(\C=C\C)#N | C4H5N
reactant | 2-hydrazinobenzothiazole | N(N)C=1SC2=C(N1)C=CC=C2 | C7H7N3S
reactant | choline | OCC[N+](C)(C)C
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Amino-5-methyl-2-pyrazolin-1-yl)benzothiazole | NC1=NN(C(C1)C)C=1SC2=C(N1)C=CC=C2 | C11H12N4S
